US07365225B2
Step a) Formation of methyl-5-bromosalicylate
To a solution of 5-bromosalicylic acid (200 g, 0.92 mol) in methanol (2 L) was added thionylchloride (440 g, 3.7 mol) at 0° C. with stirring and then allowed to reflux at 70° C. for 40 h. Excess solvent was distilled off and to the crude residue was added EtOAc (2 L). The organic layer was washed with 10% cold aqueous NaHCO3 solution (2×1 L), brine and dried. The solvent was removed under vacuum to give the title compound as a low melting point solid (190 g, 89%). TLC: PetEther/EtOAc, 7:3, Rf: 0.6

reactant | 5-bromosalicylic acid | 0.92 mol, 200 g | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | thionylchloride | 3.7 mol, 440 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 2 L | CO | CH4O
product | methyl-5-bromosalicylate | COC(C=1C(O)=CC=C(C1)Br)=O | C8H7BrO3
